US05223536
Using a Parr hydrogenation apparatus, a solution of 1.7 grams (0.004 mole) of 1-cyclopropyl-1-(4-chlorophenyl)-4-(4-fluoro-3-phenoxyphenyl) -1,3-butadiene in 100 mL of absolute ethanol was hydrogenated in the presence of 0.3 gram of Raney nickel (50% in water). Upon completion of the hydrogenation, the reaction mixture was concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel. Elution was accomplished using 10% cyclohexane in hexane. The appropriate fractions were combined and concentrated under reduced pressure, yielding 1.2 grams of 1-cyclopropyl-1-(4-chlorophenyl)-4-(4-fluoro-3-phenoxyphenyl)butane. The nmr spectrum was consistent with the proposed structure.

reactant | 1-cyclopropyl-1-(4-chlorophenyl)-4-(4-fluoro-3-phenoxyphenyl) -1,3-butadiene | 0.004 mole, 1.7 grams | C1(CC1)C(=CC=CC1=CC(=C(C=C1)F)OC1=CC=CC=C1)C1=CC=C(C=C1)Cl | C25H20ClFO
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Raney nickel | 0.3 gram | [Ni] | Ni
product | 1-cyclopropyl-1-(4-chlorophenyl)-4-(4-fluoro-3-phenoxyphenyl)butane | 1.2 grams | C1(CC1)C(CCCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)C1=CC=C(C=C1)Cl | C25H24ClFO
